US07179823B1
A mixture of ethyl 3-[3-ethoxy-1-[2-(5-methyl-2-phenyl-4-oxazolylmethoxy)-5-pyridylmethyl]-1H-pyrazol-4-yl]propionate (638 mg), 1 N aqueous sodium hydroxide solution (2.5 ml), tetrahydrofuran (5 ml), and ethanol (5 ml) was stirred at room temperature for 3 hours, diluted with 1 N hydrochloric acid (2.5 ml), and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The obtained colorless crystals were collected by filtration, and 3-[3-ethoxy-1-[2-(5-methyl-2-phenyl-4-oxazolylmethoxy)-5-pyridylmethyl]-1H-pyrazol-4-yl]propionic acid (495 mg, yield: 82%) was obtained. This was recrystallized from ethanol-hexane. Melting point: 143–144° C.

reactant | ethyl 3-[3-ethoxy-1-[2-(5-methyl-2-phenyl-4-oxazolylmethoxy)-5-pyridylmethyl]-1H-pyrazol-4-yl]propionate | 638 mg | C(C)OC1=NN(C=C1CCC(=O)OCC)CC=1C=CC(=NC1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C27H30N4O5
reactant | sodium hydroxide | 1 N, 2.5 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 1 N, 2.5 ml | Cl | ClH
product | 3-[3-ethoxy-1-[2-(5-methyl-2-phenyl-4-oxazolylmethoxy)-5-pyridylmethyl]-1H-pyrazol-4-yl]propionic acid | 495 mg, yield: 82% | C(C)OC1=NN(C=C1CCC(=O)O)CC=1C=CC(=NC1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C25H26N4O5
